### PR TITLE
[Merged by Bors] - feat: a random variable whose law is a dirac is ae constant

### PR DESCRIPTION
**Pull request by EtienneC30**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/HasLaw.lean [hunk 1]
```diff
@@ -183,6 +183,21 @@ lemma HasPDF.hasLaw [h : HasPDF X P μ] : HasLaw X (μ.withDensity (pdf X P μ))
...
+  simp
+
+lemma hasLaw_dirac_iff [IsProbabilityMeasure P] [MeasurableSingletonClass 𝓧] {x : 𝓧} :
+    HasLaw X (.dirac x) P ↔ X =ᵐ[P] (fun _ ↦ x) where
+  mp := HasLaw.ae_eq_of_dirac
+  mpr h :=
+    { aemeasurable := aemeasurable_const.congr h.symm
+      map_eq := by
+        rw [map_congr h]
+        simp }
```
Comment (DavidLedvinka) [inline Mathlib/Probability/HasLaw.lean]: Maybe we should have:

```
lemma hasLaw_smul_dirac_iff [MeasurableSingletonClass 𝓧] {x : 𝓧} :
    HasLaw X ((P Set.univ) • Measure.dirac x) P ↔ X =ᵐ[P] (fun _ ↦ x) := by
```

and then the probability version as a special case.

Comment (DavidLedvinka) [reply Mathlib/Probability/HasLaw.lean]: Also the mpr case does not appear to need the `MeasurableSingletonClass` assumption, so perhaps that should be a separate lemma.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
